US03974162
N-[6-Chloro-2-(p-chlorobenzylamino)-4-pyrimidinyl]glycine ethyl ester.
A stirred mixture of 10.0 g. (0.04 mole) of N-(2,6-dichloro-4-pyrimidinyl)glycine ethyl ester, prepared in Example 8, 5.6 g. (0.04 mole) of p-chlorobenzylamine and 4.24 g. (0.04 mole) of sodium carbonate in 100 ml. of ethanol was heated under reflux for 6 hours. The reaction mixture was filtered and the filtrate was cooled in ice. The precipitate thus formed was collected and recrystallized from benzene with petroleum ether being added to initiate precipitation to give 4.1 g. of product, m.p. 168°-170°C.

reactant | N-(2,6-dichloro-4-pyrimidinyl)glycine ethyl ester | 0.04 mole | C(C)OC(CNC1=NC(=NC(=C1)Cl)Cl)=O | C8H9Cl2N3O2
reactant | p-chlorobenzylamine | 0.04 mole | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | 0.04 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-[6-Chloro-2-(p-chlorobenzylamino)-4-pyrimidinyl]glycine ethyl ester | C(C)OC(CNC1=NC(=NC(=C1)Cl)NCC1=CC=C(C=C1)Cl)=O | C15H16Cl2N4O2
